US05061702
To a solution (20 ml) in acetone of 2.6004 g of (6R, 7R)-7-phenylacetamido-3-chloromethylceph-3-em-4-carboxylic acid p-methoxybenzyl ester were dissolved 0.787 g of sodium iodide and 1.377 g of triphenylphosphine and the mixture was stirred for 1 hour. The reaction mixture was concentrated under a reduced pressure, and 25 ml of methylene chloride and 25 ml of water were added to the residue to form two layers. To the reaction mixture, 5.555 g of 2,3-diacetoxybenzaldehyde and 1.47 g of sodium bicarbonate were added and the mixture was stirred for 14 hours at room temperature. The resulting dichloromethane layer was separated, concentrated under a reduced pressure, and was then purified by flash column chromatography using Wako Gel C-300 (300 g, Wako Junyaku KK) (eluent, benzene:ethyl acetate=5:1). The product, (6R,7R)-7-phenylacetamido-3-[2-(3,4-diacetoxyphenyl)vinyl]ceph-3-em-4-carboxylic acid p-methoxybenzyl ester (1.570 g, cis isomer) was obtained.

reactant | (6R, 7R)-7-phenylacetamido-3-chloromethylceph-3-em-4-carboxylic acid p-methoxybenzyl ester | 2.6004 g | COC1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(CC3=CC=CC=C3)=O)=O)CCl)C=C1 | C24H23ClN2O5S
reactant | sodium iodide | 0.787 g | [I-].[Na+]
reactant | triphenylphosphine | 1.377 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,3-diacetoxybenzaldehyde | 5.555 g | C(C)(=O)OC1=C(C=O)C=CC=C1OC(C)=O | C11H10O5
reactant | sodium bicarbonate | 1.47 g | C([O-])(O)=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | (6R,7R)-7-phenylacetamido-3-[2-(3,4-diacetoxyphenyl)vinyl]ceph-3-em-4-carboxylic acid p-methoxybenzyl ester | 1.570 g | COC1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(CC3=CC=CC=C3)=O)=O)C=CC3=CC(=C(C=C3)OC(C)=O)OC(C)=O)C=C1 | C35H32N2O9S
